US08278457B2
Step 1. Synthesis of trans-2-(4-bromophenoxy)cyclopentanol
6-Oxabicyclo[3.1.0]hexane (2.04 mL, 23.5 mmol), 4-bromophenol (4.49 g, 26.0 mmol), cesium carbonate (99%, 8.93 g, 27.1 mmol) and benzyltriethylammonium chloride (99%, 1.09 g, 4.74 mmol) were suspended in dioxane (65 mL) and heated at reflux for 18 hours. Additional 6-oxabicyclo[3.1.0]hexane (0.50 mL, 5.8 mmol) was added, and heating was continued for 66 hours. Again, 6-oxabicyclo[3.1.0]hexane (0.50 mL, 5.8 mmol) was added, and the reaction mixture was heated at reflux for an additional 18 hours. The reaction was then cooled to room temperature, concentrated in vacuo and partitioned between saturated aqueous sodium bicarbonate solution and ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over calcium sulfate, filtered and concentrated under reduced pressure to afford a golden oil, which was purified via chromatography on silica gel (Gradient: 0% to 20% ethyl acetate in heptane) to provide product as an oil. Yield: 3.21 g, 12.5 mmol, 48%. GCMS m/z 256, 258 (M+). 1H NMR (400 MHz, CDCl3) δ 1.64 (d, J=3.7 Hz, 1H), 1.60-1.68 (m, 1H), 1.70-1.88 (m, 3H), 2.07 (m, 1H), 2.17 (m, 1H), 4.30 (m, 1H), 4.48 (m, 1H), 6.80 (d, J=9.0 Hz, 2H), 7.37 (d, J=9.0 Hz, 2H).

reactant | 6-Oxabicyclo[3.1.0]hexane | 23.5 mmol, 2.04 mL | C12CCCC2O1 | C5H8O
reactant | 4-bromophenol | 26.0 mmol, 4.49 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | cesium carbonate | 27.1 mmol, 8.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6-oxabicyclo[3.1.0]hexane | 5.8 mmol, 0.50 mL | C12CCCC2O1 | C5H8O
reactant | 6-oxabicyclo[3.1.0]hexane | 5.8 mmol, 0.50 mL | C12CCCC2O1 | C5H8O
catalyst | benzyltriethylammonium chloride | 4.74 mmol, 1.09 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dioxane | 65 mL | O1CCOCC1 | C4H8O2
product | trans-2-(4-bromophenoxy)cyclopentanol | BrC1=CC=C(O[C@H]2[C@@H](CCC2)O)C=C1 | C11H13BrO2
